US07585885B2
N-Methyl-5-(2-methylpyrrolidine-1-carbonyl)-N-propyl-isophthalamic acid ethyl ester
Add 2-methylpyrrolidine (204 mg, 2.4 mmol) to a solution of 5-(methyl-propylcarbamoyl)-isophthalic acid monoethyl ester (640 mg, 2.18 mmol) in dichloromethane (8 mL) followed by 1-hydroxybenzotriazole (20 mg, 0.15 mmol) and diisopropyl carbodiimide (375 μL, 2.4 mmol). Stir the solution at room temperature over the weekend. Add ethyl acetate (25 mL) and wash with saturated aqueous ammonium chloride (2×10 mL), saturated aqueous sodium bicarbonate (10 mL), saturated aqueous sodium chloride (10 mL), dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes) to give the title compound as an oil (218 mg, 28%).

reactant | 2-methylpyrrolidine | 2.4 mmol, 204 mg | CC1NCCC1 | C5H11N
reactant | 5-(methyl-propylcarbamoyl)-isophthalic acid monoethyl ester | 2.18 mmol, 640 mg | C(C)OC(C1=CC(C(=O)O)=CC(=C1)C(N(CCC)C)=O)=O | C15H19NO5
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropyl carbodiimide | 2.4 mmol, 375 μL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N-Methyl-5-(2-methylpyrrolidine-1-carbonyl)-N-propyl-isophthalamic acid ethyl ester | 218 mg, 28% | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(=O)N1C(CCC1)C)=O | C20H28N2O4
